US07407961B2
To a suspension of 60% NaH (52 mg) in NMP (1.0 ml), was added thiophenol (143 mg) under ice-bath cooling. After 10 minute stirring, 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg) was added to the mixture at the same temperature. The mixture was stirred at the same temperature for 10 minutes and then allowed to warm to 25° C. After 2 hours stirring, the mixture was heated at 100° C. for 1 hour. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was recrystallized from MeOH-IPE to give 5-[5-amino-3-phenyl-6-(phenylthio)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (93 mg).

reactant | NaH | 52 mg | [H-].[Na+]
reactant | thiophenol | 143 mg | C1(=CC=CC=C1)S | C6H6S
reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 5-[5-amino-3-phenyl-6-(phenylthio)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 93 mg | NC=1N=C(C(=NC1SC1=CC=CC=C1)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C24H22N4OS
